US07259179B2
6-(1H-Benzimidazol-1-yl)-N-(4-morpholin-4-ylphenyl)pyrazin-2-amine
In a procedure analogous to example 12, reaction of 6-chloro-N-(4-morpholin-4-ylphenyl)pyrazin-2-amine (150 mg, 0.52 mmol) and benzimidazole (67 mg, 0.57 mmol) furnished the product (60 mg, 31%).

reactant | 6-chloro-N-(4-morpholin-4-ylphenyl)pyrazin-2-amine | 0.52 mmol, 150 mg | ClC1=CN=CC(=N1)NC1=CC=C(C=C1)N1CCOCC1 | C14H15ClN4O
reactant | benzimidazole | 0.57 mmol, 67 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
product | 6-(1H-Benzimidazol-1-yl)-N-(4-morpholin-4-ylphenyl)pyrazin-2-amine | 60 mg, 31% | N1(C=NC2=C1C=CC=C2)C2=CN=CC(=N2)NC2=CC=C(C=C2)N2CCOCC2 | C21H20N6O
